US09382238B2
To a solution of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (100 mg, 0.243 mmol) and 3-(1-methyl-1H-pyrazol-4-yl)-5-(trifluoromethyl)aniline (58.6 mg, 0.243 mmol) in pyridine (2 mL) was added T3P® (0.5 mL, 0.243 mmol) at 27° C. under N2. The mixture was stirred at 27° C. for 30 min. LCMS showed the reaction was completed. Then the mixture was put onto ice (5 g). The mixture was concentrated to give the residue. The residue was purified by preparative TLC (DCM/MeOH=10:1, Rf=0.6) to yield a light yellow solid of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(1-methyl-1H-pyrazol-4-yl)-5-(trifluoromethyl)phenyl)acetamide (138 mg, 0.217 mmol, 89% yield): 1H NMR (400 MHz, CD3OD) δ 8.09-7.93 (m, 2H), 7.87-7.76 (m, 2H), 7.69-7.52 (m, 2H), 7.49-7.33 (m, 4H), 7.23 (dd, J=7.8, 16.4 Hz, 2H), 6.91 (d, J=7.9 Hz, 1H), 6.72 (d, J=8.4 Hz, 1H), 5.38-5.15 (m, 2H), 4.15 (d, J=7.1 Hz, 2H), 3.94-3.60 (m, 8H), 1.42 (t, J=6.8 Hz, 3H). ES-LCMS m/z 635 (M+H).

reactant | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.243 mmol, 100 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | 3-(1-methyl-1H-pyrazol-4-yl)-5-(trifluoromethyl)aniline | 0.243 mmol, 58.6 mg | CN1N=CC(=C1)C=1C=C(N)C=C(C1)C(F)(F)F | C11H10F3N3
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(1-methyl-1H-pyrazol-4-yl)-5-(trifluoromethyl)phenyl)acetamide | 0.217 mmol, 138 mg, 89% yield | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=CC(=C1)C(F)(F)F)C=1C=NN(C1)C)F | C34H30F4N4O4
